Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
descending thoracic aortic aneurysm
 
Major Surgical or Invasive Procedure:
___ Left carotid to subclavian bypass

 
History of Present Illness:
Ms. ___ is an ___ year old female with a history of aortic 
valve replacement
with ascending aortic repair back in ___.  In ___, she 
underwent routine echocardiogram.  She was incidentally found to 
have enlargement of the thoracic aorta. She underwent CT for 
further evaluation of this and her thoracic aorta measured 6.4 
cm.  After discussion about repair versus surveillance, she was 
booked for elective left subclavian bypass/transposition first 
followed by 
TEVAR utilizing lumbar drainage in the following weeks.  
 
Past Medical History:
Bipolar Disorder, Chronic Urinary Tract Infections, s/p Bilaeral 
Varicose vein stripping, s/p Cholecystectomy
 
Social History:
___
Family History:
Father with ___
 
Physical Exam:
Vital Signs: 98.1po, 130/66, 90, 18, 95% 1L
General: Ms. ___ is a well developed female in no apparent 
distress.  She is ambulating ad lib and tolerating activity 
well.
HEENT: Head is atraumatic, normocephalic.  Mucous membranes are 
moist.  Sclerae are anicteric.  Neck is supple.  There is an 
appropriate amount of ecchymosis surrounding the medial portion 
of bypass incision.  This is well approximated with dermabond.  
There is no tenderness, fluctuance, drainage or foul odor.  
There is no JVD.  Trachea is midline.
CARDIAC: RRR, 
RESPIRATORY: Respiratory rate is unlabored.
ABDOMEN: Soft, non tender.
EXTREMITIES: Strength is ___ and symmetrical in upper 
extremities.  Radial and ulnar pulses 2+.  Capillary refill is 
brisk.
There is mild edema of the bilateral ankles.  Capillary refill 
is brisk.  The skin is intact.
NEURO: Alert, oriented x 3.  CNII-X11 grossly intact.  No 
pronator drift.
 
Pertinent Results:
___ 07:00AM BLOOD WBC-7.1 RBC-3.95 Hgb-11.6 Hct-38.2 MCV-97 
MCH-29.4 MCHC-30.4* RDW-14.2 RDWSD-50.3* Plt ___
___ 07:00AM BLOOD Glucose-116* UreaN-5* Creat-0.5 Na-140 
K-3.7 Cl-103 HCO3-29 AnGap-12
 
Brief Hospital Course:
Ms. ___ presented from home on ___ for elective left 
subclavian bypass in preparation for endovascular repair of 
descending thoracic aortic aneurysm.  She underwent bypass on 
___ and tolerated this surgery well.  She was transferred to 
the PACU in stable condition.  She was monitored closely and she 
remained hemodynamically stable and neurologically intact.  Her 
pain was well controlled.  She was gradually weaned off of 
supplementary o2.  At the time of discharge, she was ambulating 
ad lib and tolerating activity well.  She was voiding sufficient 
amounts of clear yellow urine.
 
Medications on Admission:
1. Atorvastatin 40 mg PO QPM 
2. LamoTRIgine 100 mg PO daily
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. TraZODone 200 mg PO QHS 
5. Aspirin 81 mg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Cyanocobalamin 1000 mcg PO DAILY 
8. Docusate Sodium 100 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 6 hours Disp 
#*10 Tablet Refills:*0 
3.  LamoTRIgine 100 mg PO DAILY  
4.  TraZODone 200 mg PO QHS  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 40 mg PO QPM  
7.  Cyanocobalamin 1000 mcg PO DAILY  
8.  Docusate Sodium 100 mg PO DAILY  
9.  Metoprolol Succinate XL 50 mg PO DAILY  
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
6.4cm descending thoracic aortic aneurysm 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___,
It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital for left 
subclavian bypass surgery in preparation for your aneurysm 
repair.  You tolerated the procedure well and are now ready to 
be discharged from the hospital.   Please follow the 
recommendations below to ensure a speedy and uneventful 
recovery.  Your surgery is scheduled for ___.  We would 
like to see you in the clinic in between now and ___, to 
make sure you are recovering well from your hospitalization.  
Bruising, tenderness, mild swelling, numbness and/or a firm 
ridge at the incision site is normal.  This will improve 
gradually in the next 2 weeks.
 
You may have a sore throat and or mild hoarseness.  Warm tea, 
throat lozenges, or cool drinks usually help.  It is normal to 
feel tired for ___ weeks after your surgery.  No changes have 
been made to your medication regime.  You should take Tylenol 
___ three times daily for pain and if you have severe pain, 
you may take ___ tablet of Oxycodone.  You should never drive or 
consume alcohol on oxycodone.  You should use oxycodone very 
sparingly, if at all.
CARE OF YOUR NECK INCISION:
 
You may shower 48 hours after your procedure.  Avoid direct 
shower spray to the incision.  Let soapy water run over the 
incision, then rinse and gently pat the area dry.  Do not scrub 
the incision.  
 
Your neck incision may be left open to air and uncovered unless 
you have a small amount of drainage at the site.  If drainage is 
present, place a small sterile gauze over the incision and 
change the gauze daily.
 
Do not take a bath or go swimming for 2 weeks.
 
ACTIVITY:
 
Do not drive for one week after your procedure.  Do not ever 
drive after taking narcotic pain medication.
 
You should not push, pull, lift or carry anything heavier than 5 
pounds for the next 2 weeks. 

 After 2 weeks, you may return to your regular activities 
including exercise, sexual activitiy and work.
 
DIET:
 
It is normal to have a decreased appetite.  Your appetite will 
return over time.  Follow a well-balanced, heart healthy diet, 
with moderate restriction of salt and fat.
CALLING FOR HELP
 
If you need help, please call us at ___.  Remember your 
doctor, or someone covering for your doctor is available 24 
hours a day, 7 days a week.  If you call during non-business 
hours, you will reach someone who can help you reach the 
vascular surgeon on call. 
 
To get help right away, call ___.
 
Call the surgeon right away for:
_x0095_headache that is not controlled with pain medication or 
headache that is getting worse
_x0095_fever of 101 degrees or more
_x0095_bleeding from the incision, or drainage the is new or 
increased, or drainage that is white yellow or green
_x0095_pain that is not relieved with medication, or pain that is 
getting worse instead of better
 
If you notice any of the following signs of stroke, call ___ to 
get help right away.
_x0095_sudden numbness or weakness of the face, arm or leg 
(especially on one side of the body)
_x0095_sudden confusion, trouble speaking or trouble understanding 
speech
_x0095_trouble seeing in one or both eyes
_x0095_sudden trouble walking, dizziness, loss of balance or 
coordination
_x0095_sudden severe headache with no known cause

 
Followup Instructions:
___